US08557843B2
6-Methylcarbamoyl-4-p-tolylamino-quinoline-3-carboxylic Acid
Ethyl 6-(methylcarbamoyl)-4-[(4-methylphenyl)amino]quinoline-3-carboxylate was hydrolysed under basic conditions using NaOH (aq.). The final product was purified by column chromatography.

reactant | Ethyl 6-(methylcarbamoyl)-4-[(4-methylphenyl)amino]quinoline-3-carboxylate | CNC(=O)C=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)C | C21H21N3O3
reactant | NaOH | [OH-].[Na+]
product | 6-Methylcarbamoyl-4-p-tolylamino-quinoline-3-carboxylic Acid | CNC(=O)C=1C=C2C(=C(C=NC2=CC1)C(=O)O)NC1=CC=C(C=C1)C | C19H17N3O3
